

.lib cmom_typ

*----------------------------------------------------------------------
*                             CAPACITOR
*----------------------------------------------------------------------
* TEMPLATE   : capacitor_eldoN.t,v 2.1 2002/04/25 14:39:16
* PARAMETERS : capacitor.dds,v 1.39 2002/04/25 14:37:50
* TRANSLATOR : ddspp.tcl,v 1.47 2001/09/11 08:03:16
* Translated by re11 on June 14, 2002
* ----------------------------------------------------------------------
* (C) Copyright STMicroelectronics (2002)
*     Unauthorized Reproduction and Communication Strictly Prohibited.
* ----------------------------------------------------------------------
*----------------------------------------------------------------------


.subckt CMOMM1M5M1 PLUS MINUS B
+  param: c=17.58e-15 number=1 mismatch=1
*----------------------------------------------------------------------
* Family cmom Model CMOMM1M5M1 typ
* Maturity : Tentative
*----------------------------------------------------------------------
.param climit     = 1.12e-3
.param gamma      = 63e-17
.param wf         = 0.2e-6
.param space	  = 0.21e-6
.param lfbus      = 1e-6
.param wbus       = 1e-6
.param area       = {(c-gamma)/climit}
.param lbus       = {sqrt(area)}
.param pitch      = {(space+wf)}
.param nf         = {trunc((lbus+space)/(pitch))}
.param lbus2      = {pitch*nf-space} 
.param lf_eff     = {area/lbus2}		
*----------------------------------------------------------------------
*Parameters exposed to global variations
.param cap        = 9.53e-5
.param cf0p       = 0
*----------------------------------------------------------------------
.param cval1      = {(climit+gamma/area)*area}
.param nfp        = valif(trunc(nf/2) == nf/2, nf/2, trunc(nf/2+1))
.param nfm        = trunc(nf/2)
.param cvalp      = {((lbus2*wbus)+(lf_eff+lfbus)*wf*nfp)*cap}
.param cvalm      = {((lbus2*wbus)+(lf_eff+lfbus)*wf*nfm)*cap}
*----------------------------------------------------------------------
Cc   PLUS MINUS {cval1*number}
Ccpp B  MINUS {cvalp*number}
Ccpm B	PLUS {cvalm*number}
.ends CMOMM1M5M1

.subckt CMOMM1M5M2 PLUS MINUS B
+  param: c=17.58e-15 number=1  mismatch=1
*----------------------------------------------------------------------
* Family cmom Model CMOMM1M5M2 typ
* Maturity : Tentative
*----------------------------------------------------------------------
.param climit     = 1.12e-3
.param gamma      = 63e-17
.param wvia       = 0.19e-6
.param spacevia   = 0.22e-6
.param cem        = 0.01e-6
.param wf         = 0.2e-6
.param space	  = 0.21e-6
.param area       = {(c-gamma)/climit}
.param lbus       = {sqrt(area)}
.param pitch      = {(space+wf)}
.param nf         = {trunc((lbus+space)/pitch)}
* lbus2 quasi equal to lf_eff  (Lf_eff*lfbus2=Area)
.param lbus2      = {pitch*nf-space} 
.param lf_eff     = {area/lbus2}	
*----------------------------------------------------------------------
*Parameters exposed to global variations
.param cap        = 9.53e-5
.param cf0p       = 0
.param dl1        = 0.0e-6
.param dw1        = 0.0e-6  
.param lfbus      = 1e-6
.param wbus       = 1e-6
*----------------------------------------------------------------------
.param c0         = {(climit+gamma/area)*area}
.param nfp        = valif(trunc(nf/2) == nf/2, nf/2, trunc(nf/2+1))
.param nfm        = trunc(nf/2)
.param ncvia      = 2
.param nrvia      = trunc((lbus2+spacevia-2*cem)/(wvia+spacevia))
.param nvia       = {ncvia*nrvia}
.param rviaeq     = {0.25/nvia}
.param rseq       = 12.5e-3
.param rvalp      = {(rviaeq+((rseq/3)*(lf_eff+lfbus-dl1)/(wf-dw1))/nfp)}
.param rvalm      = {(rviaeq+((rseq/3)*(lf_eff+lfbus-dl1)/(wf-dw1))/nfm)}
.param cvalp      = {((lbus2*wbus)+(lf_eff+lfbus)*wf*nfp)*cap}
.param cvalm      = {((lbus2*wbus)+(lf_eff+lfbus)*wf*nfm)*cap}
Cc 4 5 {c0*number}
*----------------------------------------------------------------------
Rrp PLUS  4 {rvalp/number}
Rrm MINUS 5 {rvalm/number}
Ccpp  B     5 {cvalp*number}
Ccpm  B     4 {cvalm*number}
.ends CMOMM1M5M2


.endl cmom_typ


.lib cmimhk_typ

*----------------------------------------------------------------------
*                             CAPACITOR
*----------------------------------------------------------------------
* TEMPLATE   : capacitor_eldoN.t,v 2.1 2002/04/25 14:39:16
* PARAMETERS : capacitor.dds,v 1.39 2002/04/25 14:37:50
* TRANSLATOR : ddspp.tcl,v 1.47 2001/09/11 08:03:16
* Translated by re11 on June 14, 2002
* ----------------------------------------------------------------------
* (C) Copyright STMicroelectronics (2002)
*     Unauthorized Reproduction and Communication Strictly Prohibited.
* ----------------------------------------------------------------------
*----------------------------------------------------------------------


.subckt CHKMM6M1 PLUS MINUS B
+  param: c=2.6502e-14 w=3.5e-6 nviatop=1
+  nviabot=1 number=1 mismatch=1
*----------------------------------------------------------------------
* Family cmimhk Model CHKMM6M1 typ
* Maturity : Tentative
*----------------------------------------------------------------------
.param dw1_typ = 0.0e-6
.param dl1_typ = 0.0e-6
.param cf0_typ = 1.43e-10
.param ca_typ  = 2.0e-3
.param cor     = 0
.param we      = {w-dw1_typ}
.param l       = {dl1_typ+(c-2*cf0_typ*(we-1.172*cor)
+                 +2*cor*cor*ca_typ)/(ca_typ*we+2*cf0_typ)}
*----------------------------------------------------------------------
*Parameters exposed to global variations
.param  ca =2.0e-3   cf0=1.43e-10  cap=6.07e-6  cf0p=3.63e-11
+       dl1=0.0e-6  dw1=0.0e-6  dl2=0.0e-6  dw2 =0.0e-6
*----------------------------------------------------------------------
.param cval1   = {(2*cf0*(w-dw1+l-dl1-1.172*cor)
+                +ca*((w-dw1)*(l-dl1)-2*cor*cor))*number}
.param mem     = 0.5e-6
.param l2      = {l+2*mem}
.param w2      = {w+2*mem}
.param cval2   = {(cap*(w2-dw2)*(l2-dl2)+cf0p*2*(w2-dw2+l2-dl2))*number}
*----------------------------------------------------------------------
Cc   PLUS MINUS cval1
Ccp  B    MINUS cval2
.ends CHKMM6M1

.subckt CHKMM6M2 PLUS MINUS B
+  param: c=2.6502e-14  w=3.5e-6  nviatop=1
+  nviabot=1  number=1  mismatch=1
*----------------------------------------------------------------------
* Family cmimhk Model CHKMM6M2 typ
* Maturity : Tentative
*----------------------------------------------------------------------
.param dw1_typ   = 0.0e-6
.param dl1_typ   = 0.0e-6
.param cf0_typ   = 1.43e-10
.param ca_typ    = 2.0e-3
.param cor       = 0
.param we        = {w-dw1_typ}
.param l         = {dl1_typ+(c-2*cf0_typ*(we-1.172*cor)
+                 +2*cor*cor*ca_typ)/(ca_typ*we+2*cf0_typ)}
*----------------------------------------------------------------------
*Parameters exposed to global variations
.param ca=2.0e-3    cf0=1.43e-10  cap=6.07e-6  cf0p=3.63e-11
+      dl1=0.0e-6  dw1=0.0e-6  dl2=0.0e-6  dw2=0.0e-6
+      rs1=210e-3  rs2=210e-3  rviatop=0.2 rviabot=0.2
*----------------------------------------------------------------------
.param c0        = {(2*cf0*(w-dw1+l-dl1-1.172*cor)
+                  +ca*((w-dw1)*(l-dl1)-2*cor*cor))*number}

.param dcdv1     = -50e-6
.param dcdv2     = 20e-6
Cc 4 5 poly {c0} {c0*dcdv1} {c0*dcdv2}
.param mem       = 0.5e-6
.param l2        = {l+2*mem}
.param w2        = {w+2*mem}
*----------------------------------------------------------------------
.param rviatopeq = valif(nviatop > 0,(rviatop/(nviatop+1e-6)),0.0)
.param rviaboteq = valif(nviabot > 0,(rviabot/(nviabot+1e-6)),0.0)
.param rval1     = {(rs1*(l-dl1)/(3.0*(w-dw1))+rviatopeq)/number}
.param rval2     = {(rs2*(l2-dl2)/(3.0*(w2-dw2))+rviaboteq)/number}
.param cval2     = {(cap*(w2-dw2)*(l2-dl2)+cf0p*2*(w2-dw2+l2-dl2))*number}
*----------------------------------------------------------------------
Rr14 PLUS  4 rval1
Rr25 MINUS 5 rval2
Ccp  B     5 cval2
.ends CHKMM6M2

.subckt CHKMM6M3 PLUS MINUS B
+  param: c=2.6502e-14  w=3.5e-6  nviatop=1
+  nviabot=1  number=1  mismatch=1
*----------------------------------------------------------------------
* Family cmimhk Model CHKMM6M3 typ
* Maturity : Tentative
*----------------------------------------------------------------------
.param dw1_typ   = 0.0e-6
.param dl1_typ   = 0.0e-6
.param cf0_typ   = 1.43e-10
.param ca_typ    = 2.0e-3
.param cor       = 0
.param we        = {w-dw1_typ}
.param l         = {dl1_typ+(c-2*cf0_typ*(we-1.172*cor)
+                 +2*cor*cor*ca_typ)/(ca_typ*we+2*cf0_typ)}
*----------------------------------------------------------------------
*Parameters exposed to global variations
.param ca=2.0e-3    cf0=1.43e-10  cap=6.07e-6  cf0p=3.63e-11
+      dl1=0.0e-6  dw1=0.0e-6  dl2=0.0e-6  dw2=0.0e-6
+      rs1=210e-3  rs2=210e-3  rviatop=0.2 rviabot=0.2
*----------------------------------------------------------------------
.param c0        = {(2*cf0*(w-dw1+l-dl1-1.172*cor)
+                  +ca*((w-dw1)*(l-dl1)-2*cor*cor))*number}

.param dcdv1     = -50e-6
.param dcdv2     = 20e-6
Cc 6 7 poly {c0} {c0*dcdv1} {c0*dcdv2}
.param mem       = 0.5e-6
.param l2        = {l+2*mem}
.param w2        = {w+2*mem}
*----------------------------------------------------------------------
.param lbcst_typ = 0.301261
.param lbl_typ   = 0.722438e6
.param lbw_typ   = -0.353135e6
.param lbl2_typ  = 0.001667e12
.param lbw2_typ  = 0.007561e12
.param lblw_typ  = -0.011546e12
.param lbw3_typ  = -3.643e13
.param lblw2_typ = 5.023e13
.param ltcst_typ = 0.142748
.param ltl_typ   = 0.757670e6
.param ltw_typ   = -0.390349e6
.param ltl2_typ  = 0.001719e12
.param ltw2_typ  = 0.008456e12
.param ltlw_typ  = -0.012601e12
.param ltw3_typ  = -4.093e13
.param ltlw2_typ = 5.567e13
.param mcst_typ  = 0.055722
.param ml_typ    = -0.712770e6
.param mw_typ    = 0.337005e6
.param ml2_typ   = -0.001684e12
.param mw2_typ   = -0.007329e12
.param mlw_typ   = 0.011419e12
.param mw3_typ   = 3.546e13
.param mlw2_typ  = -4.960e13
*----------------------------------------------------------------------
.param rviatopeq = valif(nviatop > 0,(rviatop/(nviatop+1e-6)),0.0)
.param rviaboteq = valif(nviabot > 0,(rviabot/(nviabot+1e-6)),0.0)
.param rval1     = {(rs1*(l-dl1)/(3.0*(w-dw1))+rviatopeq)/number}
.param rval2     = {(rs2*(l2-dl2)/(3.0*(w2-dw2))+rviaboteq)/number}
.param cval2     = {(cap*(w2-dw2)*(l2-dl2)+cf0p*2*(w2-dw2+l2-dl2))*number}
.param lval2     = {abs((lbcst_typ+lbl_typ*l2+lbw_typ*w2+lbl2_typ*l2^2
+                   +lbw2_typ*w2^2+lblw_typ*l2*w2+lbw3_typ*w2^3
+                   +lblw2_typ*l2*w2^2)*1e-12)}
.param lval1     = {abs((ltcst_typ+ltl_typ*l+ltw_typ*w+ltl2_typ*l^2
+                   +ltw2_typ*w^2+ltlw_typ*l*w+ltw3_typ*w^3
+                   +ltlw2_typ*l*w^2)*1e-12)}
.param mval      = {(mcst_typ+ml_typ*l+mw_typ*w+ml2_typ*l^2
+                   +mw2_typ*w^2+mlw_typ*l*w+mw3_typ*w^3
+                   +mlw2_typ*l*w^2)*1e-12}
.param kval      = {-mval/((lval1*lval2)^0.5)}
*----------------------------------------------------------------------
*Kl  Ll46  Ll57  kval 
Rr14 PLUS  4 rval1
Ll46 4     6 lval1
Rr25 MINUS 5 rval2
Ll57 5     7 lval2
Ccp  B     7 cval2
.ends CHKMM6M3


.endl cmimhk_typ

